US07723330B2
Step C: Preparation of N-(3-fluoro-4-(3-(4-methylpiperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A 50 mL round-bottomed flask was charged with N-(4-(1-(4-methoxybenzyl)-3-(4-methylpiperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide (33.2 mg, 0.0489 mmol) and CF3COOH (5 mL). The reaction mixture was stirred at 60° C. until LC-MS showed that the starting material had been consumed (overnight). Then the solvent was removed and the residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to afford product (24.6 mg, 90%). LRMS (APCI pos): >99% purity, 254 nm, m/e 559 (M+1). 1H NMR (400 MHz, CDCl3) δ 11.85 (s, 1H), 10.33 (s, 1H), 8.42 (d, 1H), 8.25 (m, 2H), 7.97 (dd, 1H), 7.61 (m, 2H), 7.41 (d, 1H), 7.23-7.30 (m, 3H), 6.20 (d, 1H), 3.56 (m, 4H), 2.69 (m, 4H), 2.40 (s, 3H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-(4-methylpiperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.0489 mmol, 33.2 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)F)N3CCN(CC3)C)C=C1 | C36H32F2N8O4
reactant | CF3COOH | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-fluoro-4-(3-(4-methylpiperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 24.6 mg, 90% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2N2CCN(CC2)C)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C28H24F2N8O3
